US09102623B2
A9.4) 6-(Difluoromethyl)-N-isopropyl-2-oxo-1,2-dihydropyridine-3-carboxamide
After dissolution of 200 mg (1.1 mmol) of 6-(difluoromethyl)-2-oxo-1,2-dihydropyridine-3-carboxylic acid in 25 ml of tetrahydrofuran and addition of 206 mg (1.3 mmol) of N,N-carbonyldiimidazole, the mixture was stirred initially at room temperature for 30 min and then under reflux for 30 min. A solution of 66 mg (1.1 mmol) of isopropylamine in 5 ml of tetrahydrofuran was then added dropwise, and the mixture was heated under reflux for a further 2 h. The solution was evaporated to dryness, the residue was then taken up in ethyl acetate and the mixture was washed with 2N hydrochloric acid and water, dried and concentrated. Purification by column chromatography gave 150 mg (61% of theory) of a colorless powder.

reactant | 6-(difluoromethyl)-2-oxo-1,2-dihydropyridine-3-carboxylic acid | 1.1 mmol, 200 mg | FC(C1=CC=C(C(N1)=O)C(=O)O)F | C7H5F2NO3
reactant | N,N-carbonyldiimidazole | 1.3 mmol, 206 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | isopropylamine | 1.1 mmol, 66 mg | C(C)(C)N | C3H9N
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 6-(Difluoromethyl)-N-isopropyl-2-oxo-1,2-dihydropyridine-3-carboxamide | FC(C1=CC=C(C(N1)=O)C(=O)NC(C)C)F | C10H12F2N2O2
